US04814343
alpha-[2,6-Dimethoxy-3-(1-methoxyethyl)phenyl]-1-triphenylmethyl-1H-imidazole-4-methanol
Starting from 1-bromo-2,6-dimethoxy-3-(1-methoxyethyl)benzene and 1-triphenylmethyl-1H-imidazole-4-carboxaldehyde. The reaction product is purified by chromatography on silica (eluent: 98:2 v/v dichloromethanemethanol). Yield: 49.7% of theory; M.P.: 96°-99° C. (recrystallized from acetonitrile).

reactant | 1-bromo-2,6-dimethoxy-3-(1-methoxyethyl)benzene | BrC1=C(C(=CC=C1OC)C(C)OC)OC | C11H15BrO3
reactant | 1-triphenylmethyl-1H-imidazole-4-carboxaldehyde | C1(=CC=CC=C1)C(N1C=NC(=C1)C=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H18N2O
product | alpha-[2,6-Dimethoxy-3-(1-methoxyethyl)phenyl]-1-triphenylmethyl-1H-imidazole-4-methanol | Yield: 49.7% | COC1=C(C(=CC=C1C(C)OC)OC)C(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H34N2O4
